US07842686B2
2-Butyl-2H-benzo[b][1,4]thiazin-3(4H)-one
To a solution of 2-bromohexanoic acid (10 mmol, 1951 mg) in DMF (10 ml) was added 2-aminothiophenol (10 mmol, 1252 mg) and K2CO3 (50 mmol, 9.9 g) and the reaction mixture stirred at room temperature for 1 h. EDC (10 mmol, 1917 mg) and HOBt (10 mmol, 1351 mg) were added and the reaction mixture was stirred at room temperature for a further 1.5 h. The reaction mixture was diluted with 1N HCl and extracted with ethyl acetate. The organic phase was washed with sat. NaHCO3, brine, dried over Na2SO4 and then filtered through a short plug of silica gel. Evaporation of the solvent gave product as a yellow solid that was used without further purification. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=222.0; tR=3.07.

reactant | 2-bromohexanoic acid | 10 mmol, 1951 mg | BrC(C(=O)O)CCCC | C6H11BrO2
reactant | 2-aminothiophenol | 10 mmol, 1252 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | K2CO3 | 50 mmol, 9.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EDC | 10 mmol, 1917 mg
reactant | HOBt | 10 mmol, 1351 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | 2-Butyl-2H-benzo[b][1,4]thiazin-3(4H)-one | C(CCC)C1C(NC2=C(S1)C=CC=C2)=O | C12H15NOS
